US09029360B2
6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3-methyl-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one
30.0 mg (0.076 mmol) 6-(6-bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one, 6.3 μL (0.099 mmol) methyliodide, 3.7 mg (0.084 mmol) sodium hydride (50%) in 1.0 mL DMF were stirred at RT for 1 h. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 5 mg (16% of theory). ESI-MS: m/z=408 (M+H)+; Rt(HPLC): 0.95 min. (Method N).

reactant | 6-(6-bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | 0.076 mmol, 30.0 mg | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(N1)=O | C14H12BrN5O2S
reactant | methyliodide | 0.099 mmol, 6.3 μL | CI | CH3I
reactant | sodium hydride | 0.084 mmol, 3.7 mg | [H-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-3-methyl-3,4,5,6,7,8-hexahydro-thiazolo[4,5-d]azepin-2-one | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(N1C)=O | C15H14BrN5O2S
